US09447078B2
CH3CN addition to methyl 6-((2-propylpentyl)oxy)picolinate following the method used in Example 6 gave 3-oxo-3-(6-((2-propylpentyl)oxy)pyridin-2-yl)propanenitrile in quantitative yield as a solid which was directly used in next reaction without further purification.

reactant | methyl 6-((2-propylpentyl)oxy)picolinate | C(CC)C(COC1=CC=CC(=N1)C(=O)OC)CCC | C15H23NO3
reactant | CH3CN | CC#N | C2H3N
product | 3-oxo-3-(6-((2-propylpentyl)oxy)pyridin-2-yl)propanenitrile | quantitative yield | O=C(CC#N)C1=NC(=CC=C1)OCC(CCC)CCC | C16H22N2O2
